US08183246B2
6-{[(1R)-1-Phenylethyl]amino}heptanoic acid methyl ester
Put 8.80 g (55.63 mmol) 6-oxoheptanoic acid and 6.741 g (55.63 mmol) (R)-(+)-1-phenylethylamine together in 100 ml toluene at RT. Add a catalytic amount (approx. 50 mg) of p-toluenesulphonic acid and heat overnight with stirring on a water separator. Then partially concentrate by evaporation, filter off any solids using a paper filter, and fully concentrate the filtrate by evaporation. Dissolve the residue in 170 ml methanol. Add approx. 1.7 g Raney Nickel (moist with water) and hydrogenate for 48 h at 4 bar. Next, filter on diatomite and concentrate the filtrate by evaporation. Purify the residue by column chromatography on silica gel (solvent: dichloromethane/methanol 95:5), obtaining 4.15 g (48.5% of theor.) of the target compound, which is reacted without further characterization.

reactant | 6-oxoheptanoic acid | 55.63 mmol, 8.80 g | O=C(CCCCC(=O)O)C | C7H12O3
reactant | (R)-(+)-1-phenylethylamine | 55.63 mmol, 6.741 g | C1(=CC=CC=C1)[C@@H](C)N | C8H11N
reactant | p-toluenesulphonic acid | approx. 50 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 6-{[(1R)-1-Phenylethyl]amino}heptanoic acid methyl ester | COC(CCCCC(C)N[C@H](C)C1=CC=CC=C1)=O | C16H25NO2
